US06051712
A solution of 691 mg (2.00 mmol) of (3RS,4RS)-1-benzyl-4-(3-bromophenyl)-piperidin-3-ol in 3 ml of absolute tetrahydrofuran was treated with 163 mg (2.20 mmol) of lithium carbonate and cooled to -50° C. A solution of 722 mg (4.00 mmol) of β-trimethylsilylethyl chloroformate [Synthesis 346 (1987)] in 4 ml of toluene was added dropwise thereto at -50° C. The reaction mixture was warmed to room temperature and stirred for 24 hours. Subsequently, the mixture was partitioned between methylene chloride and water, the organic phase was dried over magnesium sulphate and finally the solvent was removed under reduced pressure. The crude product (0.8 g) was purified by chromatography on silica gel with methylene chloride as the eluent. There were obtained 470 mg (43% of theory) of 2-trimethylsilylethyl (3RS,4RS)-4-(3-bromophenyl)-3-(2-trimethylsilylethoxycarbonyloxy)-piperidine-1-carboxylate as a light yellow oil, which was used directly in the next step.

reactant | (3RS,4RS)-1-benzyl-4-(3-bromophenyl)-piperidin-3-ol | 2.00 mmol, 691 mg | C(C1=CC=CC=C1)N1CC(C(CC1)C1=CC(=CC=C1)Br)O | C18H20BrNO
reactant | lithium carbonate | 2.20 mmol, 163 mg | C([O-])([O-])=O.[Li+].[Li+]
reactant | β-trimethylsilylethyl chloroformate | 4.00 mmol, 722 mg | ClC(=O)OCC[Si](C)(C)C | C6H13ClO2Si
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-trimethylsilylethyl (3RS,4RS)-4-(3-bromophenyl)-3-(2-trimethylsilylethoxycarbonyloxy)-piperidine-1-carboxylate | 470 mg, 43% | BrC=1C=C(C=CC1)C1C(CN(CC1)C(=O)OCC[Si](C)(C)C)OC(=O)OCC[Si](C)(C)C | C23H38BrNO5Si2
